US08372864B2
660 mg of methyl[2-(2-bromo-4-trifluoromethylphenyl)ethyl](1-propylbutyl)carbamate are dissolved under an inert atmosphere in 15 cm3 of dichloromethane at a temperature close to 10° C. 575 mg of 4-dimethylaminopyridine are added to the reaction mixture. 1.32 cm3 of trifluoromethanesulfonic anhydride in solution in 2 cm3 of anhydrous dichloromethane are poured into the reaction mixture over 5 min. The reaction mixture is kept stirring for 15 h at a temperature close to 20° C. 20 cm3 of a saturated aqueous solution of sodium hydrogen carbonate are added to the reaction medium. This stirring is continued for 30 min, then 20 cm3 of dichloromethane are added to the mixture. The organic phase is decanted then washed successively with 100 cm3 of a 0.1M aqueous solution of hydrochloric acid and 20 cm3 of a saturated aqueous solution of sodium hydrogen carbonate. Next, the organic phase is dried then concentrated using a rotary evaporator under reduced pressure (5 kPa). The residual solid is then purified by filtration through silica (silica 60—particle size 15-40 μm—eluent: 50% ethyl ethyl acetate/50% cyclohexane). The organic phase is concentrated under reduced pressure (5 kPa). 519 mg of 5-bromo-7-trifluoromethyl-2-(1-propylbutyl)-3,4-dihydroisoquinoline-1(2H)-one are obtained in the form of a yellow oil.

reactant | methyl[2-(2-bromo-4-trifluoromethylphenyl)ethyl](1-propylbutyl)carbamate | 660 mg | COC(N(C(CCC)CCC)CCC1=C(C=C(C=C1)C(F)(F)F)Br)=O | C18H25BrF3NO2
reactant | trifluoromethanesulfonic anhydride | 1.32 cm3 | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 575 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 5-bromo-7-trifluoromethyl-2-(1-propylbutyl)-3,4-dihydroisoquinoline-1(2H)-one | 519 mg | BrC1=C2CCN(C(C2=CC(=C1)C(F)(F)F)=O)C(CCC)CCC | C17H21BrF3NO
